US04144248
1-Methylsulfinyl-1-methylthio-2-phenylethylene (1.868 g) was dissolved in 10 ml of methylene chloride, and with stirring under ice cooling, a solution consisting of 0.71 ml of thionyl chloride and 6 ml of methylene chloride was added dropwise over the course of 30 minutes. Under ice cooling, the mixture was stirred for 1.5 hours, and concentrated under reduced pressure. The residue was chromatographed on a Florisil column using benzene/hexane as an eluant to afford 1.494 g of 1,1-bis(methylthio)-2-chloro-2-phenylethylene as a colorless oil.

reactant | 1-Methylsulfinyl-1-methylthio-2-phenylethylene | 1.868 g | CS(=O)C(=CC1=CC=CC=C1)SC | C10H12OS2
reactant | thionyl chloride | 0.71 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 1,1-bis(methylthio)-2-chloro-2-phenylethylene | 1.494 g | CSC(=C(C1=CC=CC=C1)Cl)SC | C10H11ClS2
